US08258152B2
4-Bromo-1-(2-fluoro-4-iodo-benzyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ((R)-2,2-dimethyl-[1,3]-dioxolan-4-ylmethoxy)-amide
EDCI (99 mg, 0.52 mmol) and HOBt (78 mg, 0.58 mmol) were added to a suspension of sodium 4-bromo-1-(2-fluoro-4-iodo-benzyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylate (0.23 g, 0.41 mmol) in THF (4 ml). The suspension was warmed gently for 1 minute before the addition of a solution of O—((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-hydroxylamine (85 mg, 0.58 mmol) in THF (1 ml), followed by DIPEA (73 μl, 0.42 mmol). The reaction mixture was stirred at room temperature for 70 hours, poured into ethyl acetate (40 ml) then washed sequentially with 0.1M HCl (10 ml), saturated NaHCO3 solution (10 ml) and brine (10 ml). The organic layer was isolated then dried over magnesium sulphate and concentrated in vacuo to provide a solid residue. Purification of the residue by flash chromatography (Si-SPE, dichloromethane:ethyl acetate 100:0 to 70:30 to 40:60 to 0:100) afforded the title compound as a waxy white solid (0.17 g, 68%). LCMS (method B): RT=3.51 min, M+H+=604, 606.

reactant | EDCI | 0.52 mmol, 99 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.58 mmol, 78 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | sodium 4-bromo-1-(2-fluoro-4-iodo-benzyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylate | 0.41 mmol, 0.23 g | BrC1=C2C(=CN=C1)N(C(=C2)C(=O)[O-])CC2=C(C=C(C=C2)I)F.[Na+]
reactant | O—((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-hydroxylamine | 0.58 mmol, 85 mg | CC1(OC[C@@H](O1)CON)C | C6H13NO3
reactant | DIPEA | 0.42 mmol, 73 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | 4-Bromo-1-(2-fluoro-4-iodo-benzyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ((R)-2,2-dimethyl-[1,3]-dioxolan-4-ylmethoxy)-amide | 0.17 g, 68% | CC1(OC[C@@H](O1)CONC(=O)C1=CC=2C(=CN=CC2Br)N1CC1=C(C=C(C=C1)I)F)C | C21H20BrFIN3O4
